US08349824B2
To an argon purged solution of 7-bromo-2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridine (383 g, 1.43 mol) in dioxane (14.4 ml) were added tert-butyl carbamate (202 g, 1.72 mol), cesium carbonate (654 g, 2.01 mol), tris(dibenzylideneacetone) dipalladium(0) (26.3 g, 28.7 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (33.2 g, 57.4 mmol). The resulting mixture was heated to 100° C. and stirred for 18 hours under argon atmosphere. The crude material was applied on silicagel and purified by flash chromatography over a 20 g silicagel column using heptane/ethyl acetate 10-70% as eluent affording (2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-carbamic acid tert-butyl ester (346 mg, 79.5%) as an off-white solid. mp: 216-219° C., MS: m/z=304.1 (M+H+)

reactant | 7-bromo-2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridine | 1.43 mol, 383 g | BrC1=CC=2N(C=C1)N=C(N2)N2CCCC2 | C10H11BrN4
reactant | tert-butyl carbamate | 1.72 mol, 202 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 2.01 mol, 654 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 57.4 mmol, 33.2 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | dioxane | 14.4 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 28.7 mmol, 26.3 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | (2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-carbamic acid tert-butyl ester | 346 mg, 79.5% | C(C)(C)(C)OC(NC1=CC=2N(C=C1)N=C(N2)N2CCCC2)=O | C15H21N5O2
